Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___ year old woman without known psychiatric history brought in 
to
ED by a fried when found appearing distressed and reporting
suicidal ideation.

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient reports onset of symptmos about two months ago. She
states that she first noticed that "I would be talking to people
and their faces were changing, like miming other people and
things". She reports taht she fell in love with a research
cardiologist at ___ whom she met at conferences (of note, she
works in a research lab at ___. She reports lots of mental
confusion surrounding loving him. Thi sincluding thoughts of "he
is Jewish and I would have to convert to be with him" which is
distressing, also that she noticed he is married and has heard 
he
has children and feels guilty for falling in love with him when
he is married. She states yesterday she became distressed about
her love for him and "called him to make an appointment to see
him" at ___ (of note, she has no appointments made in 
the
___, and also sent him an email professing her
love to him. At times she states that she spoke with him on the
phone, but at other times states that she has not directly
communicated with him. She denies researching him on the 
internet
(other tahn looking up his phone number on the ___ website),
denies research his wife or children, knowing where he lives,
knowing what his wife or children look like. She says she has no
plans to harm him, and does not feel she would harm him or his
wife or children out of jealousy if he were to reject her love. 

She states that she became very stressed yesterday because "I 
had
a thought that he had killed himself because of me"; she states
that she had no communication with anyone but that she felt it 
to
be so. She notes talking with her brother and friend yesterday
about this issue, and says they both suggested she be seen by a
psychiatrist to deal with it. She stats she was brought in when
she was running down the ___ late for a meeting and threw
her bag into the bushes; somehow in this, a friend ___ her
and had her come to the hospital.

The patient denies changes in sleep or appetite. She denies
depressed mood. She denies hearing voices, but does report a
"dialouge of thoughts" in her head; initially she does report
that people can put thoughts in her head but later says this is
not true. She denies that others can read her thoughts, denies
that people are out to harm her, and denies referential thining.
She denies a history of trauma.
 

 
Past Medical History:
None
 
Social History:
___
Family History:
No known family psychiatric history
 
Physical Exam:
VS: T: 98.2 P: 88 BP: 99/67 RR: 16 SpO2: 99% (RA)
* General: Well-nourished, well-developed, in no apparent
distress. Appears stated age. 
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity, no focal tenderness.
* Lungs: Clear to auscultation; no crackles or wheezes.
* CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal
pulses.
* Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry, no rashes, scars, or lesions.

Neurological:
  *Cranial Nerves-
       I: Not tested.
       II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
  *Coordination- Normal on finger-nose-finger.
  *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
  *Sensation- intact to light touch, position sense intact.
  *Gait- steady, no truncal ataxia, normal stance and posture.
  *Romberg- negative.

NEUROPSYCHIATRIC EXAMINATION:
* Appearance: ___ yo ___ woman wearing hospital gown with
stains on it, eating ice cream, sitting in a chair
* Behavior: no pma or pmr; cooperative
* Orientation: aaox3
* Mood: "worried"
* Affect: flat
* Thought Process: linear, logical, goal-oriented; no LOA
* Thought Content: delusions about potentially causing a doctor
to commit suicide; no HI, +AH with voices telling her that she
should die
* Judgment: impaired
* Insight: impaired
* Speech: normal rate and volume

COGNITION:
* Memory: ___ registration, ___ recall at 5 min; remote intact
* Abstraction: apple/orange = fruits
* Proverb: correctly interprets "the apple doesn't fall far from
the tree"
* Calculation: $1.75 = 7 quarters
* Fund of knowledge: able to name ___ play by ___
* Attention span: able to list MOYB without error
* Language: normal

 
Pertinent Results:
___ 02:37PM   WBC-7.7 RBC-4.50 HGB-13.1 HCT-40.0 MCV-89 
MCH-29.1 MCHC-32.7 RDW-12.1
___ 02:37PM   ALT(SGPT)-16 AST(SGOT)-23 ALK PHOS-60 TOT 
BILI-0.7
___ 02:37PM   GLUCOSE-116* UREA N-14 CREAT-0.7 SODIUM-137 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-24 ANION GAP-14
___ 02:37PM   TSH-3.5
___ 02:37PM   HCG-<5
 
Brief Hospital Course:
#Psychiatric

On initial interview on the unit, patient endorses prominent and 
well developed erotomanic delusion regarding a doctor that she 
has seen in conferences. She endorses strong romantic feelings 
and feeling that he had given her "signs" that he was in love 
with her too, endorsing that she had become distressed when she 
had made a decision to convert to Judaism for him. Her thoughts 
did exhibit disorganization when discussing this delusions, but 
were otherwise well organized. Other symptoms expressed included 
a vague description of "seeing peoples' faces change when she 
was talking to them. As hospitalization, she endorsed other 
symptoms she had experienced over the preceding two months, 
including thoughts of having "special powers" (unable to 
elaborate), thoughts that her email and facebook were being 
monitored by others in order to collect data to take away her 
visa, seeing people "as colors", ideas of reference where she 
felt clinical conferences and presentaitons were directed 
specifically on the phone, and having a feeling when talking to 
family on the phone that they were replaced by imposters. 

With reference to her erotomanic delusion, the patient stated 
she had not used the internet to find information about the 
person or his family, did not know where he lived or how to 
locate him, his wife, or children, and noted she had no ideation 
about harming him, his family, or anyone else. When asked what 
would happen if he did not return her love, she said "I would 
have to move on and leave him alone". As hospitalization 
progressed she showed improved insight into this, stating "I 
created this picture of him in my head when I had no data to 
suggest it", though still thought "maybe I should meet with him 
to hear it directly from him that he does not love me"; however, 
she was agreeable to our suggestion to avoid direct contact with 
him. 

Aripiprazole 5 mg daily was started to address her psychotic 
symptoms. Even before her first dose, she did exhibit 
improvement in her overall level of organization and insight 
into her delusional system; when most symptoms above were 
reported, she had recompensated and was able to identify each of 
them as being unusual and unwanted. She never gave any history 
consistent with mood or anxiety disorder. Collateral from 
friends indicated concern over the preceding weeks for the level 
of her obsession with this man, but no concerns about her safety 
other than the suicidal ideation she had expressed on the day of 
admission. Given the presence of several psychotic symptoms with 
onset and resolution within 2 months, a diagnosis of 
schizophreniform disorder was made. 

Given that the patient had no insurance, decision was made to 
switch from Aripiprazole to risperidone, a switch that the 
patient tolerated well. 

On the day of discharge, patient was bright and future oriented. 
She had no thoughts plans, or intent to harm herself or other 
people. She had insight into her symptoms and was agreeable to 
continuing to take medication and follow-up with a psychiatrist. 
Intake was scheduled for individual therapy and psychiatry at 
___ HRi for which the patient stated she could pay out of 
pocket. 

#Medical
There were no acute medical issues while hospitalized

#Legal
Patient signed a CV on admission

#Safety
There were no acute safety issues on the unit and patient was 
safe on 15 minute checks. 
 
Medications on Admission:
None
 
Discharge Medications:
1. RISperidone 1 mg PO HS 
RX *risperidone 1 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophreniform Disorder

 
Discharge Condition:
*station and gait: normal, steady
    *tone and strength: normal
  *Appearance: Young woman dressed in casual clothes, in no
distress
  Behavior: calm, cooperative, engaged in converation and
forthcoming. asks to call resident by his first name. No gross
disorganization of behavior
  *Mood and Affect: 'I feel very good', affect is bright and
expressive
  *Thought process: Thought process is linear, organized, much
improved over previous days
*Thought Content: No longer focused on objet of her affection.
Endorses history of referential thiking, grandiosity, thoughts
that others are replaced by imposters, but none of these
currently. No thoughts plans or intent to harm self or others. 
  *Judgment and Insight: Improved
  Cognition:
    *Attention, *orientation, and executive function: grossly
intact
    *Memory: gorssly intact
    *Fund of knowledge:appropriate
    *Speech: Appropriate rate, rhythm, prosody
    *Language: Fluent; questions sometimes need to be clarified
given culturual difference

 
Discharge Instructions:
Ms. ___:

You were admitted to a psychiatric unit for symptoms of 
psychosis. You recovered quickly with support and medication. 
Please continue to take medications as prescribed and attend all 
follow-up appointments. 
 
Followup Instructions:
___